US05623073
Add 0.7 ml (10 mmol) of freshly distilled thionyl chloride, with stirring, to a suspension of 1.5 g (5 mmol) of the base obtained above in 25 ml of anhydrous chloroform. Heat the resulting solution at reflux for 1 hour. After cooling, the 1-phenacyl-2-(2-chloroethylamino)benzimidazole hydrochloride precipitate is isolated by filtration, washed with petroleum ether and recrystallised from a mixture of ethanol/ether.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-Hydroxyethylamino)-1-phenacylbenzimidazole | 5 mmol, 1.5 g | OCCNC1=NC2=C(N1CC(=O)C1=CC=CC=C1)C=CC=C2 | C17H17N3O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-phenacyl-2-(2-chloroethylamino)benzimidazole hydrochloride | Yield: 90% | Cl.C(C(=O)C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)NCCCl | InChI=1S/C17H16ClN3O.ClH/c18-10-11-19-17-20-14-8-4-5-9-15(14)21(17)12-16(22)13-6-2-1-3-7-13;/h1-9H,10-12H2,(H,19,20);1H
